US08252810B2
(1) 5-Oxazol-4-yl-3H-[1,3,4]oxadiazol-2-one
After suspending oxazole-4-carboxylic acid hydrazide (CAS 885274-12-4) (1.06 g) in ethyl acetate (10 ml), trichloromethyl chloroformate (1.21 ml) was added dropwise while stirring on ice. Upon completion of the dropwise addition, the mixture was heated to reflux for 2 hours and 20 minutes. It was then allowed to cool, n-heptane was added to the reaction mixture, and the precipitate was collected by filtration. The filtrate was concentrated under reduced pressure and the residue was recrystallized with toluene-ethyl acetate. This was combined with the previously filtered substance to obtain the title compound (1.38 g).

reactant | oxazole-4-carboxylic acid hydrazide | 1.06 g | O1C=NC(=C1)C(=O)NN | C4H5N3O2
reactant | n-heptane | CCCCCCC | C7H16
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | trichloromethyl chloroformate | 1.21 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
product | 5-Oxazol-4-yl-3H-[1,3,4]oxadiazol-2-one | 1.38 g | O1C=NC(=C1)C1=NNC(O1)=O | C5H3N3O3
